US07612114B2
6-{2-{Ethyl[3-fluoro-4-(3-piperidin-1-ylpropyl)benzyl]amino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine and 3-fluoro-4-(3-piperidin-1-ylpropyl)benzoic acid hydrochloride according to an analogous synthetic method to Example 152, ethyl[3-fluoro-4-(3-piperidin-1-ylpropyl)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (377 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (320 mg).

reactant | ethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | C(C)NC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C20H25NO2
reactant | 3-fluoro-4-(3-piperidin-1-ylpropyl)benzoic acid hydrochloride | Cl.FC=1C=C(C(=O)O)C=CC1CCCN1CCCCC1
reactant | ethyl[3-fluoro-4-(3-piperidin-1-ylpropyl)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 377 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)CC1=CC(=C(C=C1)CCCN1CCCCC1)F | C35H45FN2O2
product | 6-{2-{Ethyl[3-fluoro-4-(3-piperidin-1-ylpropyl)benzyl]amino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 320 mg | C(C)N(C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)CCCN1CCCCC1)F | C33H41FN2O2
